US09056873B2
Preparation 18: 1,3-Dimethyl-5-(tributylstannyl)-1H-thieno[3,2-c]pyrazole
To a cold (−78° C.) mixture of 1,3-dimethyl-1H-thieno[3,2-c]pyrazole (400 mg, 2.63 mmol) and THF (15 mL) under a nitrogen atmosphere was added n-butyllithium (1.156 mL, 2.89 mmol) dropwise. The reaction mixture was stirred at −78° C. for 60 minutes. Tributylchlorostannane (0.855 mL, 3.15 mmol) was added, and the reaction mixture was stirred at −78° C. for 60 minutes and then warmed to room temperature with stirring over a period of 1 hour. The reaction mixture was quenched with brine (15 mL) and extracted with EtOAc (2×25 mL). The organic layers were combined, dried over sodium sulfate, and evaporated. The resulting residue was purified by normal-phase silica gel column (80 g) chromatography, eluting with a gradient of 0-100% hexane and EtOAc. The pure product fractions were combined and evaporated to give the title compound as a clear oil (1.060 g, 91%). 1H NMR (400 MHz, CDCl3) δ ppm 0.77-0.98 (m, 9H), 1.04-1.20 (m, 6H), 1.25-1.47 (m, 6H), 1.49-1.70 (m, 6H), 2.41 (s, 3H), 3.94 (s, 3H), 6.82 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C19H34N2SSn, 443. found, 443.

reactant | 1,3-dimethyl-1H-thieno[3,2-c]pyrazole | 2.63 mmol, 400 mg | CN1N=C(C2=C1C=CS2)C | C7H8N2S
reactant | n-butyllithium | 2.89 mmol, 1.156 mL | C(CCC)[Li]
reactant | Tributylchlorostannane | 3.15 mmol, 0.855 mL | C(CCC)[Sn](Cl)(CCCC)CCCC
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1,3-Dimethyl-5-(tributylstannyl)-1H-thieno[3,2-c]pyrazole | 1.060 g, 91% | CN1N=C(C2=C1C=C(S2)[Sn](CCCC)(CCCC)CCCC)C | InChI=1S/C7H7N2S.3C4H9.Sn/c1-5-7-6(3-4-10-7)9(2)8-5;3*1-3-4-2;/h3H,1-2H3;3*1,3-4H2,2H3;
